US08486952B2
2-chloro-7-(4-fluorophenyl)-4-((R)-3-fluoropyrrolidin-1-yl)-6,7-dihydro-5H cyclopenta[d]pyrimidine
2,4-dichloro-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine (Preparation H) was reacted as described in Preparation Hp1 and Hp2 with (R)-3-fluoropyrrolidine. The solvent was removed and the residue applied to Silica gel and eluted with an EtOAc/Hex gradient to afford the combined two diasteriomers (Hq). Ha1: LC-MS (M+H)+=336.0.

reactant | 2,4-dichloro-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)F)Cl | C13H9Cl2FN2
reactant | (R)-3-fluoropyrrolidine | F[C@H]1CNCC1 | C4H8FN
product | 2-chloro-7-(4-fluorophenyl)-4-((R)-3-fluoropyrrolidin-1-yl)-6,7-dihydro-5H cyclopenta[d]pyrimidine | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)F)N2C[C@@H](CC2)F | C17H16ClF2N3
